US07115750B1
N-[4-[[[2-(Dimethylamino)ethyl]amino]carbonyl]phenyl] 4-biphenylylcarboxamide
WSC (0.248 g), HOBt (0.156 g), N,N-dimethyl ethylenediamine (0.097 g) and triethylamine (0.21 ml) were added to a mixed solution of 4-(4-biphenylylcarbonylamino)benzoate (0.323 g) in THF (15 ml) and acetonitrile (15 ml). After stirring at room temperature for 18 hours, water was added to the reaction mixture, and extraction was conducted using ethyl acetate. The organic layer was washed with 10% aqueous potassium carbonate and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was recrystallized using methanol/diethyl ether to give the titled compound (0.100 g).

reactant | WSC | 0.248 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.156 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-dimethyl ethylenediamine | 0.097 g | CN(CCN)C | C4H12N2
reactant | 4-(4-biphenylylcarbonylamino)benzoate | 0.323 g | C1(=CC=C(C=C1)C(=O)NC1=CC=C(C(=O)[O-])C=C1)C1=CC=CC=C1
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
product | N-[4-[[[2-(Dimethylamino)ethyl]amino]carbonyl]phenyl] 4-biphenylylcarboxamide | 0.100 g | CN(CCNC(=O)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C | C24H25N3O2
